US07544699B2
[2-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-1-hydroxymethyl-ethyl]-carbamic acid tert-butyl ester (0.78 g, 2.05 mmol) was treated with methanesulfonyl chloride (0.235 g, 2.05 mmol) and pyridine (0.49 g, 6.15 mmol) in 5 mL of anhydrous dichloromethane at 0° C. The reaction mixture was allowed to come to room temperature and stirred for 4 h. The reaction mixture was diluted with 10 mL of dichloromethane and washed with water, brine and dried over Na2SO4. Solvent was removed under reduced pressure and silica gel column chromatography (CH2Cl2:MeOH) gave methanesulfonic acid 2-tert-butoxycarbonylamino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propyl ester (0.71 g).

reactant | [2-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-1-hydroxymethyl-ethyl]-carbamic acid tert-butyl ester | 2.05 mmol, 0.78 g | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)CO)=O | C20H23ClFNO3
reactant | methanesulfonyl chloride | 2.05 mmol, 0.235 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 6.15 mmol, 0.49 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 2-tert-butoxycarbonylamino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propyl ester | 0.71 g | C(C)(C)(C)OC(=O)NC(COS(=O)(=O)C)CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl | C21H25ClFNO5S
